US05541229
4'-[(7-Acetoxy-2-n-butyl-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
0.55 g (1 mmol) of 4'-[(2-n-butyl-7-hydroxy-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid trifluoroacetate is dissolved in 20 ml of pyridine. 0.5 ml (7 mmol) of acetyl chloride is added dropwise to the mixture at 5° C. with stirring. The mixture is stirred for 1 hour at 5° C. and then for 2 hours at ambient temperature. The pyridine is distilled off in vacuum on a rotary evaporator. The residue is mixed with water and filtered under suction. After washing with water, it is dried at 50° C. in vacuum.

reactant | 4'-[(2-n-butyl-7-hydroxy-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid trifluoroacetate | 1 mmol, 0.55 g | FC(C(=O)O)(F)F.C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C(=CC=C2C)O
reactant | acetyl chloride | 7 mmol, 0.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4'-[(7-Acetoxy-2-n-butyl-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C(C)(=O)OC1=CC=C(C2=C1N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C | C28H28N2O4
